US06339154B1
2-[3-(4-Methylpiperazino)-3-oxopropyl]phenyl N-tetradecylcarbamate Hydrochloride (Compound 14)
4N Hydrochloric acid/ethyl acetate solution (1.48 ml) was added to a solution containing 2-[3-(4-methylpiperazino)-3-oxopropyl]phenyl N-tetradecylcarbamate (2.40 g) in ethyl acetate (24 ml) while being cooled with ice. After being stirred for 45 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethyl acetate-ethanol, thereby yielding the entitled compound (2.22 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.48 ml | Cl.C(C)(=O)OCC
reactant | 2-[3-(4-methylpiperazino)-3-oxopropyl]phenyl N-tetradecylcarbamate | 2.40 g | C(CCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)N1CCN(CC1)C)=O | C29H49N3O3
solvent | ethyl acetate | 24 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(4-Methylpiperazino)-3-oxopropyl]phenyl N-tetradecylcarbamate Hydrochloride | 2.22 g | Cl.C(CCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)N1CCN(CC1)C)=O | InChI=1S/C29H49N3O3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-16-21-30-29(34)35-27-18-15-14-17-26(27)19-20-28(33)32-24-22-31(2)23-25-32;/h14-15,17-18H,3-13,16,19-25H2,1-2H3,(H,30,34);1H
